US08304419B2
Step A: Ethyl 2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxylate
NCS (0.048 g, 0.358 mmol) was added to a DMF (2 mL) solution of ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylate (0.100 g, 0.358 mmol) and the reaction mixture stirred over the weekend at room temperature. The reaction mixture was partitioned between water and EtOAc and the organic layer was separated. The organic layer was dried over MgSO4, filtered and evaporated onto silica. Purification was accomplished by silica gel column chromatography (0-50% EtOAc/hexanes) to afford the title compound (0.067 g, 71%) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.38 (br. s., 1H), 7.11 (s, 1H), 7.04 (d, 1H), 6.85 (d, 1H), 4.35-4.47 (m, 4 H), 3.16-3.24 (m, 2H), 1.41 (t, 3H). LCMS: m/z=264 (M+1).

reactant | NCS | 0.358 mmol, 0.048 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylate | 0.358 mmol, 0.100 g | CSCCOC=1C=C2C=C(NC2=CC1)C(=O)OCC | C14H17NO3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Ethyl 2,3-dihydro-7H-[1,4]oxathiino[3,2-e]indole-8-carboxylate | 0.067 g, 71% | S1CCOC=2C1=C1C=C(NC1=CC2)C(=O)OCC | C13H13NO3S
